US07163951B2
A mixture of N-[(1R)-1-(5-bromo-3-fluoropyridin-2-yl)ethyl]-2-methylpropane-2-sulfinamide (0.500 g, 1.55 mmol), bis(pinacolato)diboron (0.412 g, 1.62 mmol), potassium acetate (0.456 g, 4.64 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride (0.030 g, 0.041 mmol) in 5 mL DMF was heated to 90° C. under N2 for 4 hours. Additional bis(pinacolato)diboron (0.295 g, 1.16 mmol) and 3-chloroperoxybenzoic acid (861 mg, 4.99 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride (0.030 g, 0.041 mmol) were added to drive the reaction to completion. The reaction mixture was cooled to room temperature, and methyl 2,4-dichloro-6-{[(trifluoromethyl)sulfonyl]oxy}benzoate (0.546 g, 1.55 mmol), sodium carbonate (2M, 2.32 mL, 4.64 mmol), and [1,1′-bis(diphenylphosphino)-ferrocene]palladium (II) dichloride (0.003 g, 0.041 mmol) were added. The reaction mixture was heated to 90° C. 1.5 hours, then cooled to room temperature and partitioned between ethyl acetate and water. The organic extract was washed with water and brine, dried over Na2SO4, filtered and concentrated under vacuum. The residue was subjected to silica gel chromatography eluted with 0–30% ethyl acetate in hexanes to provide methyl 2-(6-{(1R)-1-[(tert-butylsulfinyl)amino]-ethyl}-5-fluoropyridin-3-yl)-4,6-dichlorobenzoate that gave proton NMR spectra consistent with theory.

reactant | N-[(1R)-1-(5-bromo-3-fluoropyridin-2-yl)ethyl]-2-methylpropane-2-sulfinamide | 1.55 mmol, 0.500 g | BrC=1C=C(C(=NC1)[C@@H](C)NS(=O)C(C)(C)C)F | C11H16BrFN2OS
reactant | bis(pinacolato)diboron | 1.62 mmol, 0.412 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 4.64 mmol, 0.456 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 1.16 mmol, 0.295 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 3-chloroperoxybenzoic acid | 4.99 mmol, 861 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | methyl 2,4-dichloro-6-{[(trifluoromethyl)sulfonyl]oxy}benzoate | 1.55 mmol, 0.546 g | ClC1=C(C(=O)OC)C(=CC(=C1)Cl)OS(=O)(=O)C(F)(F)F | C9H5Cl2F3O5S
reactant | sodium carbonate | 4.64 mmol, 2M, 2.32 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride | 0.041 mmol, 0.030 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride | 0.041 mmol, 0.030 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]palladium (II) dichloride | 0.041 mmol, 0.003 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 2-(6-{(1R)-1-[(tert-butylsulfinyl)amino]-ethyl}-5-fluoropyridin-3-yl)-4,6-dichlorobenzoate | C(C)(C)(C)S(=O)N[C@H](C)C1=C(C=C(C=N1)C1=C(C(=O)OC)C(=CC(=C1)Cl)Cl)F | C19H21Cl2FN2O3S
